US04578392
2-Isopropyl-3-(1-methoxy-2-methylpropyl)pyrazolo[1,5-a]pyridine
To a suspension of 1.24 g of sodium hydride (55% oil suspension) in 20 ml of tetrahydrofuran was slowly added a solution of 3 g of 2-isopropyl-3-(1-hydroxy-2-methylpropyl)pyrazolo[1,5-a]pyridine in 5 ml of dry tetrahydrofuran under stirring and cooling. After the addition was completed, the stirring was continued for 5 minutes at room temperature, then reflux temperature for 15 minutes. The mixture was cooled with ice-water, to which 5.5 g of methyl iodide were added, and stirred for an hour at room temperature. After treating with aqueous 20% ammonium chloride solution, the mixture was extracted with ether. The ether layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated to dryness. The residue was applied to silica gel column chromatography, eluted with ethyl acetate-benzene (1:4) to give 2.8 g (88%) of the desired product as pale yellow oil.

reactant | sodium hydride | 1.24 g | [H-].[Na+]
reactant | 2-isopropyl-3-(1-hydroxy-2-methylpropyl)pyrazolo[1,5-a]pyridine | 3 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)C)O | C14H20N2O
reactant | methyl iodide | 5.5 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Isopropyl-3-(1-methoxy-2-methylpropyl)pyrazolo[1,5-a]pyridine | 2.8 g, 88% | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)C)OC | C15H22N2O
